data/oMe_Silver.jsonl
{"reaction_id": "NR-101_1-C3CCC3_2-c3cnccn3","level": "medium","name": "Hanessian-Hullar Reaction","reactants_smiles": ["O1C(c2ccccc2)OCCC1(C3CCC3)(c3cnccn3)","BrBr"],"products_smiles": ["C(Br)CC(C3CCC3)(c3cnccn3)OC(=O)c1ccccc1"],"conditions": "NBS","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_substitution","intermediate_smiles": "O1C(Br)(c2ccccc2)OC(C3CCC3)(c3cnccn3)CC1","step_weight": 0,"rationale": "NBS promotes selective benzylic radical formation due to resonance stabilization by the aromatic ring, enabling bromine atom transfer to the benzylic position."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O+]1=C(c2ccccc2)OC(C3CCC3)(c3cnccn3)CC1","step_weight": 0,"rationale": "The benzylic bromide undergoes elimination as the adjacent oxygen stabilizes the resulting oxocarbenium ion through resonance, facilitating ring opening."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(Br)CC(C3CCC3)(c3cnccn3)OC(=O)c1ccccc1","step_weight": 0,"rationale": "Bromide ion, a good nucleophile under these conditions, attacks the electrophilic carbonyl carbon, driven by the high electrophilicity of the oxocarbenium-derived ester intermediate."}],"description": "Under NBS conditions, benzylic bromination occurs via a radical pathway, followed by elimination to open the oxocarbenium intermediate. Nucleophilic attack by bromide then forms the bromoester product, driven by benzylic stabilization and good leaving group ability."}
{"reaction_id": "NR-009_1-CC(C)C_2-C#N_3-C1CCCCC1","name": "Baker-Venkataraman rearrangement","level": "medium","reactants_smiles": ["C(CC(C)C)(C#N)C(=O)c1ccccc1OC(=O)C1CCCCC1"],"products_smiles": ["C1CCCCC1C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](CC(C)C)(C#N)C(=O)c1ccccc1OC(=O)C1CCCCC1","rationale": "The base abstracts the acidic α-proton next to the ketone, as the resulting enolate is resonance-stabilized by the adjacent carbonyl and aromatic ring."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c12c(cccc1)OC([O-])(C1CCCCC1)C(CC(C)C)(C#N)C2=O","rationale": "The nucleophilic enolate oxygen attacks the electrophilic ester carbonyl, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1CCCCC1C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1[O-]","rationale": "The alkoxide intermediate expels the phenoxide leaving group, driven by the stability of phenoxide and formation of a conjugated 1,3-diketone system."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C(=O)C(CC(C)C)(C#N)C(=O)c1ccccc1O","rationale": "The phenoxide anion is protonated under the reaction conditions to yield the neutral phenol product, favored by the phenol's resonance stabilization."}],"description": "Under basic conditions, the α-proton adjacent to the ketone is deprotonated to form an enolate, which attacks the ester carbonyl intramolecularly. This rearranges via acyl transfer to yield the 1,3-diketone phenol product after elimination and protonation."}
{"reaction_id": "NR-107_1-c1ccc(N(C)C)cc1_2-c1ccc(Cl)cc1_3-C1CCC1_4-CC(C)C_5-CCC_6-c1ccc(F)cc1C_7-C","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(c1ccc(N(C)C)cc1)(c1ccc(Cl)cc1)C(C1CCC1)(CC(C)C)[N+](CCC)(c1ccc(F)cc1C)C","[OH-]"],"products_smiles": ["C(=C(C1CCC1)CC(C)C)(c1ccc(N(C)C)cc1)c1ccc(Cl)cc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C1CCC1)CC(C)C)(c1ccc(N(C)C)cc1)c1ccc(Cl)cc1","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
